US09193722B2
3-methyl-2-(pyrazin-2-yl)butan-2-ol
2-iodopyrazine (10 g, 48.55 mmol) in dry diethyl ether (100 ml) was cooled to −78° C. n-BuLi (2.5M in hexanes) (20.39 ml of 2.5 M, 50.98 mmol) was added dropwise over 10 minutes. A brown heterogeneous mixture was produced and it was stirred at −78° C. for 10 minutes, then warmed to −50° C. and stirred for an additional 60 minutes. The mixture was then re-cooled to −78° C. and 3-methylbutan-2-one (5.227 g, 6.493 ml, 60.69 mmol) was added. The mixture was stirred for 10 minutes. Further diethyl ether (10 ml) was added. The mixture was then allowed to warm to ambient. A saturated ammonium chloride aqueous solution (40 ml) and ethyl acetate (100 ml) were added and the mixture stirred for 5 minutes. The organic layer was separated and the aqueous extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. The crude was purified on silica-gel, eluting with 40% ethyl acetate/petrol to afford the title compound as a pale yellow oil (4.74 g, 60%). 1H NMR (CDCl3) 0.75 (3H, d), 0.99-1.01 (3H, d), 1.58 (3H, s), 2.05-2.09 (1H, m), 4.10-4.40 (1H, m), 8.51-8.52 (2H, m), 8.73 (1H, s).

reactant | 2-iodopyrazine | 48.55 mmol, 10 g | IC1=NC=CN=C1 | C4H3IN2
reactant | n-BuLi | 50.98 mmol, 2.5M, 20.39 ml | [Li]CCCC
reactant | 3-methylbutan-2-one | 60.69 mmol, 6.493 ml, 5.227 g | CC(C(C)=O)C | C5H10O
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-methyl-2-(pyrazin-2-yl)butan-2-ol | 4.74 g, 60% | CC(C(C)(O)C1=NC=CN=C1)C | C9H14N2O
